US07799918B2
Preparation of N-(2-chloro-pyridin-3-yl)-N-hexyl-benzamide
0.63 g sodium hydride (NaH) (26 mmol) and 50 mL tetrahydrofuran (THF) were added in an ice bath with stirring. 3.01 g N-(2-chloro-pyridin-3-yl)-benzamide (13 mmol) and 40 mL THF were then added and reacted for 30 min. Next, 3.28 g 1-bromo-hexane (20 mmol) was added and reacted for 24 hr. After cooling to room temperature, the reaction was quenched by water. After extraction three times by ethyl acetate, removal of water by magnesium sulphate (MgSO4), concentration, and purification by column, 2.39 g white solid was obtained, with a yield of 58%.

reactant | sodium hydride | 26 mmol, 0.63 g | [H-].[Na+]
reactant | N-(2-chloro-pyridin-3-yl)-benzamide | 13 mmol, 3.01 g | ClC1=NC=CC=C1NC(C1=CC=CC=C1)=O | C12H9ClN2O
reactant | 1-bromo-hexane | 20 mmol, 3.28 g | BrCCCCCC | C6H13Br
solvent | THF | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(2-chloro-pyridin-3-yl)-N-hexyl-benzamide | 2.39 g, yield of 58% | ClC1=NC=CC=C1N(C(C1=CC=CC=C1)=O)CCCCCC | C18H21ClN2O
